US07384934B2
(S)-10-[3-(2-Methoxyethyl)piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene
Combine 2-isopropyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione (2.61 g, 9.48 mmoles) with trifluoromethanesulfonic acid methyl ester (1.61 mL, 14.2 mmoles) in dichloromethane (20 mL). Stir at room temperature for 2 h, then remove solvent in vacuo. Suspend residue in pyridine (20 mL) and add (S)-2-(2-methoxyethyl)piperazine (1.37 g, 9.48 mmoles). Heat at 115° C. for 8 h, then remove solvent in vacuo and apply residue to silica gel column. Elute column with dichloromethane followed by 5% 2N ammonia-methanol in dichloromethane to obtain the title compound (2.11 g, 58%) as a yellow oil: mass spectrum (APCI): m/z=386.2 (M+1).

reactant | 2-isopropyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione | 9.48 mmoles, 2.61 g | C(C)(C)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C13H13N3S2
reactant | trifluoromethanesulfonic acid methyl ester | 14.2 mmoles, 1.61 mL | COS(=O)(=O)C(F)(F)F | C2H3F3O3S
reactant | (S)-2-(2-methoxyethyl)piperazine | 9.48 mmoles, 1.37 g | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | (S)-10-[3-(2-Methoxyethyl)piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene | 2.11 g, 58% | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C20H27N5OS
